* C:\sandbox\spicelib_main\examples\testfiles\testfile.asc
V1 in 0 AC 1 0
R1 out in {res}
C1 out 0 {cap}
C2 out in {cap}
.ac dec 40 1m 1G
.param cap=1n res=1k
.step dec param cap 1p 10u 1
.backanno
.end
